US06518267B1
a) 2-(3-(2-Pyridyl)phenyl)-propionic Acid
nBuLi (ml, 2.5 M in hexanes, 52.16 mmol) was added dropwise to a solution of diisopropyl amine (5.2 ml, 37.6 mmol) in THF (20 ml) at −78 degrees C. The reaction was stirred 20 minutes warming to 0 degrees C., then the reaction was cooled to −78 degrees C. The LDA solution was then added dropwise into a cooled solution of 3-(2-pyridyl)phenyl acetic acid (2.0 g, 9.4 mmol) in THF (10 ml) at −78 degrees C. After addition, the reaction mixture was warmed to 0 degrees C., then cooled again to −78 degrees C Methyl iodide (1.2 ml, 18.6 mmol) was then added dropwise. The reaction mixture was stirred for 1 h. then warmed to RT, then quenched with water (20 ml). The THF from the reaction mixture was then removed in vacuo, then the pH of the solution was adjusted to 7 by adding con HCl and pH 7 buffer (1 M). The aqueous reaction mixture was then extracted twice with CHCl3. The combined organic extracts were dried with magnesium sulfate, concentrated in vacuo, and chromatographed (silica gel, 1% AcOH, 3% MeOH—CH2Cl2) to yield a white solid (1.3 g, 61%): MS ES(+) 228.1 (M+H+).

reactant | nBuLi | 52.16 mmol, 2.5 M | [Li]CCCC
reactant | diisopropyl amine | 37.6 mmol, 5.2 ml | C(C)(C)NC(C)C | C6H15N
reactant | LDA | [Li+].CC(C)[N-]C(C)C
reactant | 3-(2-pyridyl)phenyl acetic acid | 9.4 mmol, 2.0 g | N1=C(C=CC=C1)C=1C=C(C=CC1)CC(=O)O | C13H11NO2
reactant | Methyl iodide | 18.6 mmol, 1.2 ml | CI | CH3I
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | 2-(3-(2-Pyridyl)phenyl)-propionic Acid | 1.3 g, 61% | N1=C(C=CC=C1)C=1C=C(C=CC1)C(C(=O)O)C | C14H13NO2
